US04873236
11-[[[3-[2-[(Diethylamino)methyl]-piperidin-1-yl]propyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 2 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[2-[(diethylamino)methyl]-piperidin-1-yl]propanamine in a yield of 47% of theory. Colourless crystals, m.p. 160°-161° C. (acetonitrile).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[2-[(diethylamino)methyl]-piperidin-1-yl]propanamine | C(C)N(CC)CC1N(CCCC1)CCCN | C13H29N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 11-[[[3-[2-[(Diethylamino)methyl]-piperidin-1-yl]propyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 47% | C(C)N(CC)CC1N(CCCC1)CCCNC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C26H36N6O2
